US06133258
In an atmosphere of argon, a mixture of 60 mg (7.6 mmol) of lithium hydride and 10 ml of DMF was put in a 100 ml flask. To the flask was then connected a dropping funnel which contained 1,600 mg (5.5 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one and 10 ml of DMF. The solution of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was then added dropwise to the aforementioned mixture with stirring in 5 minutes. The mixture was further stirred for 2 hours. To the mixture was then added a mixture of 1,034 mg of 2-bromoethanol and 4 ml of DMF. The mixture was then stirred for 22 hours. After the termination of reaction, the mixture was concentrated under reduced pressure. The resulting residue was then extracted with water and ethyl acetate. The resulting organic phase was separated, washed with water and saturated brine, and then dried over sodium sulfate. The drying agent was then removed by filtration. The filtrate was then concentrated under reduced pressure. The resulting residue was then purified through silica gel column chromatography (eluant: 1/1 mixture of ethyl acetate and normal hexane). As a result, 1.48 g of 2,3-dihydro-2-[(4-chlorophenyl)imino]-3-(2-hydroxyethyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 220 mg of 2-[N-(4-chlorophenyl)-N-(2-hydroxyethyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance.

reactant | lithium hydride | 7.6 mmol, 60 mg | [H-].[Li+]
reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 5.5 mmol, 1,600 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | 2-bromoethanol | 1,034 mg | BrCCO | C2H5BrO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,3-dihydro-2-[(4-chlorophenyl)imino]-3-(2-hydroxyethyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.48 g | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CCO)=O)C=CC=N2 | C15H12ClN3O2S
